US08030499B2
Synthesis of 5-chloro-3-(2-methoxyphenyl)-1-{[2-methoxy-4-(trifluoromethoxy)phenyl]sulfonyl}-3-[2-oxo-2-(4-pyridin-4-yl piperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one
With 150 mg of 5-chloro-3-(2-methoxyphenyl)-3-[2-oxo-2-(4-pyridin-4-yl piperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one, which is the compound described in EXEMPLE 1 of Publication No. WO03/008407, and 100 mg of 2-methoxy-4-(trifluoromethoxy)benzene sulfonyl chloride as starting materials, 73 mg of the title compound (colorless amorphous) was obtained by a similar method to Example 1.

reactant | 5-chloro-3-(2-methoxyphenyl)-3-[2-oxo-2-(4-pyridin-4-yl piperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one | 150 mg | ClC=1C=C2C(C(NC2=CC1)=O)(CC(N1CCN(CC1)C1=CC=NC=C1)=O)C1=C(C=CC=C1)OC | C26H25ClN4O3
reactant | 2-methoxy-4-(trifluoromethoxy)benzene sulfonyl chloride | 100 mg | COC1=C(C=CC(=C1)OC(F)(F)F)S(=O)(=O)Cl | C8H6ClF3O4S
product | 5-chloro-3-(2-methoxyphenyl)-1-{[2-methoxy-4-(trifluoromethoxy)phenyl]sulfonyl}-3-[2-oxo-2-(4-pyridin-4-yl piperazin-1-yl)ethyl]-1,3-dihydro-2H-indol-2-one | 73 mg | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)OC(F)(F)F)OC)=O)(CC(N1CCN(CC1)C1=CC=NC=C1)=O)C1=C(C=CC=C1)OC | C34H30ClF3N4O7S
